US07951824B2
Step 2: 6-Methyl-4-pyrimidin-5-yl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
The title compound, was prepared from 6-Methyl-4-pyrimidin-5-yl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 3-Amino-1-methylpyrazole instead of 3-chloroaniline to yield the final compound as a gray crystalline, MS (ISP): m/e=295.2 (M+H)+.

reactant | 6-Methyl-4-pyrimidin-5-yl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=NC1)C | C13H13N3O2
reactant | 3-Amino-1-methylpyrazole | NC1=NN(C=C1)C | C4H7N3
product | 6-Methyl-4-pyrimidin-5-yl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=NC1)C | C15H14N6O
